US06011044
Preparation of 1-(2-methylphenyl)-4-methylamino-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline
1-(2-methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline(600 mg, 1.5 mmol) was dissolved in aqueous solution of methylamine(40%, 10 ml) in the pressure tube, and the resultant was refluxed at 180° C. for 3 hours. After removing the excess solvent by distillation under reduced pressure, the residue was diluted in dichloromethane(20 ml), and washed with water(15 ml) for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to obtain 446 mg of desired compound as solid in 77% of yield.

reactant | 1-(2-methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 1.5 mmol, 600 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H14ClF3N2O
reactant | methylamine | 10 ml | CN | CH5N
product | 1-(2-methylphenyl)-4-methylamino-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 446 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NC | C21H18F3N3O
